US06359134B1
A solution of thioisonicotinamide (5.0 g) and ethyl bromopyruvate (7.22 g) in ethanol (90 ml) was heated for 5 hours under reflux and concentrated. To the residue were added sodium bicarbonate solution and ethyl acetate, and the organic layer was separated, washed with water and sodium chloride solution, dried and concentrated. The residue was purified with silica gel column chromatography (ethyl acetate) to give pale yellow solid of ethyl 2-(4-pyridyl)-4-thiazolecarboxylate (4.55 g).

reactant | thioisonicotinamide | 5.0 g | C(C1=CC=NC=C1)(=S)N | C6H6N2S
reactant | ethyl bromopyruvate | 7.22 g | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | ethanol | 90 ml | C(C)O | C2H6O
product | ethyl 2-(4-pyridyl)-4-thiazolecarboxylate | 4.55 g | N1=CC=C(C=C1)C=1SC=C(N1)C(=O)OCC | C11H10N2O2S
